US08247403B2
(2) tert-butyl 9-(5-methyl-3-furyl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate
A mixture of tert-butyl 9-(5-formyl-3-furyl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (300 mg, 0.874 mmol), hydrazine monohydrate (0.100 ml, 2.06 mmol), ethylene glycol (6 ml) and methanol (4 ml) was stirred at 70° C. for 10 min. After cooling to room temperature, potassium hydroxide (147 mg, 2.62 mmol) was added, and the mixture was stirred at 100° C. for 1 hr. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to give the desired product (72.0 mg, 25.0%) as an oil.

reactant | tert-butyl 9-(5-formyl-3-furyl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.874 mmol, 300 mg | C(=O)C1=CC(=CO1)C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C19H21NO5
reactant | hydrazine monohydrate | 2.06 mmol, 0.100 ml | O.NN
reactant | ethylene glycol | 6 ml | C(CO)O | C2H6O2
reactant | potassium hydroxide | 2.62 mmol, 147 mg | [OH-].[K+]
solvent | water | O | H2O
solvent | methanol | 4 ml | CO | CH4O
product | tert-butyl 9-(5-methyl-3-furyl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 72.0 mg, 25.0% | CC1=CC(=CO1)C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C19H23NO4
